US05508296
To 6.8 g of 3-trityl-2,4-oxazolidinedione dissolved in 200 ml of tetrahydrofuran were added 13.6 ml of n-butyllithium and, after 15 minutes of stirring at -78° C., 3.9 g of trans-1,4-bis[(4-chloromethylphenoxy)methyl]cyclohexane which has been dissolved in 20 ml of tetrahydrofuran, followed by additional 2 hours of stirring at -78° C. After completion of the reaction, the reaction mixture was dispersed in saturated ammonium chloride aqueous solution and ice layers and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated sodium chloride aqueous solution, dried over anhydrous sodium sulfate and then evaporated to dryness, thereby obtaining crude trans-1,4-bis[[4-[(3-trityl-2,4-dioxo-5-oxazolidinyl)methyl]phenoxy]methyl]cyclohexane.

reactant | 3-trityl-2,4-oxazolidinedione | 6.8 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(OCC1=O)=O | C22H17NO3
reactant | n-butyllithium | 13.6 ml | C(CCC)[Li]
reactant | trans-1,4-bis[(4-chloromethylphenoxy)methyl]cyclohexane | 3.9 g | ClCC1=CC=C(OC[C@@H]2CC[C@H](CC2)COC2=CC=C(C=C2)CCl)C=C1 | C22H26Cl2O2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | trans-1,4-bis[[4-[(3-trityl-2,4-dioxo-5-oxazolidinyl)methyl]phenoxy]methyl]cyclohexane | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(OC(C1=O)CC1=CC=C(OC[C@@H]2CC[C@H](CC2)COC2=CC=C(C=C2)CC2C(N(C(O2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1)=O | C66H58N2O8
